US07615568B2
E. Methyl 2-Hydroxy-4-(methylthiomethyl)benzoate
To a mixture of 2-hydroxy-4-(methylthiomethyl)benzoic acid (3.96 g, 20 mmol), CH2Cl2 (75 mL), and MeOH (15 mL) was added a solution of 2 M trimethylsilyldiazomethane (TMSCHN2) in hexane (10.5 mL, 21 mmol) over 30 min. After stirring for 10 min, the reaction was concentrated and vacuum dried. The residue was chromatographed (250 g SiO2, hexanes to 5% EtOAc/hexanes) to give the title compound as a colorless oil (3.96 g, 93%).

reactant | 2-hydroxy-4-(methylthiomethyl)benzoic acid | 20 mmol, 3.96 g | OC1=C(C(=O)O)C=CC(=C1)CSC | C9H10O3S
reactant | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
reactant | trimethylsilyldiazomethane | 2 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 21 mmol, 10.5 mL | CCCCCC | C6H14
solvent | MeOH | 15 mL | CO | CH4O
product | Methyl 2-Hydroxy-4-(methylthiomethyl)benzoate | 3.96 g, 93% | OC1=C(C(=O)OC)C=CC(=C1)CSC | C10H12O3S
